### PR TITLE
[Merged by Bors] - feat(FieldTheory/PurelyInseparable): some more results for purely inseparable extension

### PR DESCRIPTION
**Pull request by acmepjz**
- `perfectClosure.perfect(Ring|Field)`: if `E` is a perfect field of characteristic `p`, then the (relative) perfect closure `perfectClosure F E` is perfect.
- `Is[PurelyIn]separable.[fin][In]sepDegree_eq`: various degrees of a [purely in]separable extension
- `IntermediateField.sepDegree_adjoin_eq_of_isAlgebraic_of_isPurelyInseparable[']`: if `K / E / F` is a field extension tower, such that `E / F` is purely inseparable, then for any subset `S` of `K` such that `F(S) / F` is algebraic, the `E(S) / E` and `F(S) / F` have the same separable degree.
- `minpoly.map_eq_of_separable_of_isPurelyInseparable`: if `K / E / F` is a field extension tower, such that `E / F` is purely inseparable, then for any element `x` of `K` separable over `F`, it has the same minimal polynomials over `F` and over `E`.
- `Polynomial.Separable.map_irreducible_of_isPurelyInseparable`: if `E / F` is a purely inseparable field extension, `f` is a separable irreducible polynomial over `F`, then it is also irreducible over `E`.

---

- [x] depends on: #10895
- [x] depends on: #10896
- [x] depends on: #10897

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/FieldTheory/PurelyInseparable.lean [hunk 1]
```diff
@@ -359,6 +360,23 @@ alias AlgEquiv.perfectClosure := perfectClosure.algEquivOfAlgEquiv
 
 end map
 
+/-- If `E` is a perfect field of characteristic `p`, then the (relative) perfect closure
+`perfectClosure F E` is perfect. -/
+instance perfectClosure.perfectRing (p : ℕ) [ExpChar E p]
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/PurelyInseparable.lean:365]: Do you assume somewhere that `p` is prime, right? This should be mentioned in the docstring (where you say "characteristic", but in the theorem you use exponential characteristic).

File: Mathlib/FieldTheory/PurelyInseparable.lean [hunk 2]
```diff
@@ -929,4 +961,88 @@ theorem sepDegree_mul_sepDegree_of_isAlgebraic (K : Type v) [Field K] [Algebra F
 
 end Field
 
+variable {K} in
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/PurelyInseparable.lean:964]: Maybe also `F` can be implicit.

File: Mathlib/FieldTheory/PurelyInseparable.lean [hunk 3]
```diff
@@ -929,4 +961,88 @@ theorem sepDegree_mul_sepDegree_of_isAlgebraic (K : Type v) [Field K] [Algebra F
...
+for any intermediate field `S` of `K / F` such that `S / F` is algebraic, the `E(S) / E` and
+`S / F` have the same separable degree. -/
+theorem IntermediateField.sepDegree_adjoin_eq_of_isAlgebraic_of_isPurelyInseparable'
+    (S : IntermediateField F K) (halg : Algebra.IsAlgebraic F S) [IsPurelyInseparable F E] :
+    sepDegree E (adjoin E (S : Set K)) = sepDegree F S := by
+  have := sepDegree_adjoin_eq_of_isAlgebraic_of_isPurelyInseparable F E (S : Set K)
+    (by rwa [adjoin_self])
+  rwa [adjoin_self] at this
+
+variable {K} in
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/PurelyInseparable.lean:1011]: Same, `F` could be implicit.

**Review by riccardobrasca — COMMENTED** [review]
Do you think it is worth to add some of the results to the doc at the beginning of the file?

**Comment by acmepjz** [comment]
> Do you think it is worth to add some of the results to the doc at the beginning of the file?

Sure, let me check it later.

File: Mathlib/FieldTheory/PurelyInseparable.lean (hunk 1 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/PurelyInseparable.lean:365]: I think I should say "of exponential characteristic" for accuracy. The `ExpChar` predicate implies that either `p` is one or is a prime. Also, since `E` is a field, its characteristics automatically is a prime (or zero).

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
